US09376452B2
A solution of 40% v/v TFA/DCM (20 mL) was added to tert-butyl 2-(3-(3-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.32 g, 0.67 mmol) and the mixture was stirred at room temperature for 1 h. The volatiles were removed at 30° C. and the material was purified by reverse-phase chromatography (10-100% MeCN/water). 2-(3-(3-Methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (0.114 g, 0.26 mmol, 39% yield) was isolated as a pale, yellow solid. 1H NMR (500 MHz, DMSO) δ 14.84 (s, 1H), 13.39 (s, 1H), 11.78 (s, 1H), 7.58-7.54 (m, 1H), 7.54-7.51 (m, 1H), 7.45 (apparent t, J=7.9 Hz, 1H), 7.22 (apparent ddd, J=8.3, 2.6, 0.9 Hz, 1H), 4.66 (s, 2H), 3.85 (s, 3H), 2.74 (s, 2H), 1.23 (s, 6H). 13C NMR (126 MHz, DMSO) δ 174.24, 166.41, 165.25, 158.88, 146.70, 133.23, 129.51, 128.99, 123.98, 120.94, 119.29, 116.40, 113.19, 70.04, 58.71, 55.33, 37.16, 26.08. LCMS retention time: 3.199 min; LCMS purity at 214 nm=97%. HRMS m/z calculated for C19H21N2O5S2 [M+1]: 421.0886. found 421.0889. Melting point 199.3° C., decomposition.

reactant | tert-butyl 2-(3-(3-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.67 mmol, 0.32 g | COC=1C=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=CC1 | C23H28N2O5S2
solvent | TFA DCM | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(3-(3-Methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 0.26 mmol, 0.114 g, 39% yield | COC=1C=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)O)=S)C=CC1 | C19H20N2O5S2
